US04756739
3-(2-chloro-1,1,2-trifluoroethoxy)-5,6-dichloropyridine
Chlorotrifluoroethylene was passed into a mixture of 16.4 g (0.1 mol) of 5,6-dichloro-3-pyridinol I/29 and 20 g (0.145 mol) of anhydrous potassium carbonate in 100 ml of absolute acetonitrile at 35° C. until starting material was no longer present. The solid was filtered off under suction, the solvent was removed by distillation, and the residue was taken up in ether and washed until neutral. After drying over MgSO4 and removal of the ether by distillation, the residue was distilled in a high vacuum.

reactant | Chlorotrifluoroethylene | ClC(=C(F)F)F | C2ClF3
reactant | 5,6-dichloro-3-pyridinol | 0.1 mol, 16.4 g | ClC=1C=C(C=NC1Cl)O | C5H3Cl2NO
reactant | potassium carbonate | 0.145 mol, 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-(2-chloro-1,1,2-trifluoroethoxy)-5,6-dichloropyridine | ClC(C(OC=1C=NC(=C(C1)Cl)Cl)(F)F)F | C7H3Cl3F3NO
